US07148226B2
2-Chloro-1-cyclopentyl-ethanone
Cyclopentanecarbonyl chloride (5.0 g, 0.038 mol) was dissolved in THF (100 mL) and cooled to 0° C. The solution was treated with a 2M solution of TMS-Diazomethane in hexanes (56.56 mL, 0.113 mol) over 10 min. The resulting yellow solution was allowed to stand at room temperature for 12 hours. The solution was then concentrated and the residue was dissolved in THF (100 mL) and treated slowly with a 4N HCl in Dioxane solution (28.28 mL, 0.113 mol). The result was allowed to stir at 24° C. for 2 hours. The solution was concentrated to an oil which was chromatographed on silica gel eluting with 5% EtOAc in Hexanes to give the intermediate depicted below (4.9 g, 88%).

reactant | Cyclopentanecarbonyl chloride | 0.038 mol, 5.0 g | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | TMS-Diazomethane | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | HCl | 4N | Cl | ClH
reactant | Dioxane | 0.113 mol, 28.28 mL | O1CCOCC1 | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Chloro-1-cyclopentyl-ethanone | ClCC(=O)C1CCCC1 | C7H11ClO
